US04305881
0.316 g (45 mg-atom) of lithium are added to 150 ml of dry liquid ammonia at -31° C. to -33° C. After stirring for 15 minutes in an argon atmosphere, the resulting dark blue mixture is treated dropwise within 45 minutes with a solution of 3.23 g (7.8 mmol) of (20R)-1α,2α-epoxy-20-[(tetrahydro-2H-pyran-2-yl)oxy]-pregna-4,6-dien-3-one in 180 ml of ether. The blue mixture is stirred at the aforementioned temperature for 15 minutes in an argon atmosphere and 0.15 ml of isoprene is added. The resulting pink mixture is treated with 2.845 g (53 mmol) of ammonium chloride in portions and then with 0.0527 g (7.6 mg-atom) of lithium. As soon as the lithium has dissolved, 0.4065 g (7.6 mmol) of ammonium chloride and subsequently a further 0.0527 g (7.6 mg-atom) of lithium are added. This procedure, i.e. the addition of 7.6 mmol of ammonium chloride followed by 7.6 mg-atom of lithium, is repeated a further fourteen times, for which a total of 5.691 g (106 mmol) of ammonium chloride and 0.7378 g (106 mg-atom) of lithium are required. After the lithium of the last addition has dissolved, 10.0 g (180 mmol) of ammonium chloride and 200 ml of ether are added, and ammonia is evaporated with stirring. The resulting suspension is diluted at 0° C. with 200 ml of water and extracted with ethyl acetate. The extract is washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated at 40° C./11 Torr. Chromatography of the residue on 65 g of silica gel with hexane/ether (1:1) gives 2.52 g (78%) of uniform (20R)-1α,3β-dihydroxy-20-[(tetrahydro-2H-pyran-2-yl)oxy]-pregn-5-ene of melting point 122°-124° C.; [α]D25 =-42° (c=1.0 in chloroform). By acidic hydrolysis there is obtained (20R)-1α,3β,20-trihydroxy-pregn-5-ene of melting point 235°-237° C.; [α]D25 =43° (c=0.5 in methanol).

reactant | lithium | 0.316 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | (20R)-1α,2α-epoxy-20-[(tetrahydro-2H-pyran-2-yl)oxy]-pregna-4,6-dien-3-one | 7.8 mmol, 3.23 g | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](C)OC5OCCCC5)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C26H36O4
reactant | isoprene | 0.15 ml | C=CC(C)=C | C5H8
reactant | ammonium chloride | 53 mmol, 2.845 g | [Cl-].[NH4+]
reactant | lithium | 0.0527 g | [Li] | Li
reactant | ammonium chloride | 7.6 mmol, 0.4065 g | [Cl-].[NH4+]
reactant | lithium | 0.0527 g | [Li] | Li
reactant | ammonium chloride | 7.6 mmol | [Cl-].[NH4+]
reactant | ammonium chloride | 106 mmol, 5.691 g | [Cl-].[NH4+]
reactant | lithium | 0.7378 g | [Li] | Li
reactant | ammonium chloride | 180 mmol, 10.0 g | [Cl-].[NH4+]
solvent | ether | 180 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | (20R)-1α,3β-dihydroxy-20-[(tetrahydro-2H-pyran-2-yl)oxy]-pregn-5-ene | 2.52 g, 78% | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](C)OC5OCCCC5)[C@]4(CC[C@@H]3[C@@]12C)C)O | C26H42O4
